US06884868B1
To a solution of 4-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)nitrobenzene (6.4 g) in ethyl alcohol (192 ml) and tetrahydrofuran (192 ml) was added 10% palladium on carbon (0.64 g), and hydrogen gas at atmosphere pressure for 6 hours. The reaction mixture was filtered through celite and evaporated under reduced pressure to give 1-(4-aminophenyl)-4-phenylpiperidine (5.66 g).

reactant | 4-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)nitrobenzene | 6.4 g | C1(=CC=CC=C1)C=1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 192 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 192 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.64 g | [Pd] | Pd
product | 1-(4-aminophenyl)-4-phenylpiperidine | 5.66 g | NC1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C17H20N2
